US06080862
Methyl-(1S,2R,3S)-3-[2-(2-hydroxyeth-1-yloxy)-4-methoxyphenyl]-1-(3,4-methylenedioxyphenyl)-5-propoxyindane-2-carboxylate
This intermediate was isolated by flash column chromatography (SiO2, EtOAc/Hexane=30/70) of a sample of the crude reaction mixture from the preparation of (1S, 2R, 3S)-3-[2-(2-Hydroxyeth-1-yloxy)-4-methoxyphenyl]-1-(3,4-methylendioxyphenyl)-5-propoxyindane-2-carboxylic acid described above prior to the saponification with lithium hydroxide.

reactant | (1S, 2R, 3S)-3-[2-(2-Hydroxyeth-1-yloxy)-4-methoxyphenyl]-1-(3,4-methylendioxyphenyl)-5-propoxyindane-2-carboxylic acid | OCCOC1=C(C=CC(=C1)OC)[C@H]1[C@@H]([C@H](C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)C(=O)O | C29H30O8
reactant | lithium hydroxide | [OH-].[Li+]
reactant | EtOAc Hexane | CCOC(=O)C.CCCCCC
product | Methyl-(1S,2R,3S)-3-[2-(2-hydroxyeth-1-yloxy)-4-methoxyphenyl]-1-(3,4-methylenedioxyphenyl)-5-propoxyindane-2-carboxylate | COC(=O)[C@@H]1[C@H](C2=CC=C(C=C2[C@H]1C1=C(C=C(C=C1)OC)OCCO)OCCC)C1=CC2=C(C=C1)OCO2 | C30H32O8
